US05043345
5.13 B. 3-(4-propargyloxy-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (0.45 ml, 7.2 mmol) and 3-(4-propargyloxy-1,2,5-thiadiazol-3-yl)pyridine (430 mg, 2.4 mmol) in acetone (5 ml) was stirred at room temperature for 18 h. The title compound precipitated from the solution and was collected by filtration to yield 0.58 g (67%).

reactant | methyl iodide | 7.2 mmol, 0.45 ml | CI | CH3I
reactant | 3-(4-propargyloxy-1,2,5-thiadiazol-3-yl)pyridine | 2.4 mmol, 430 mg | C(C#C)OC=1C(=NSN1)C=1C=NC=CC1 | C10H7N3OS
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-(4-propargyloxy-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(C#C)OC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C11H10N3OS.HI/c1-3-7-15-11-10(12-16-13-11)9-5-4-6-14(2)8-9;/h1,4-6,8H,7H2,2H3;1H/q+1;/p-1
